US06140343
Propylidene-(4-trifluoromethyl-phenyl)-amine:
To a solution of 4-trifluoromethylaniline (3.3 g, 20.5 mmol) and triethyl amine (8.3 g, 83 mmol) in 100 mL of dichloromethane, cooled in an ice/water bath, was added slowly titanium tetrachloride (11.4 mL of a 1.0M solution in dichloromethane, 11.4 mmol). After 25 min, propionaldehyde (1.8 g, 25.6 mmol) was added slowly as a solution in dichloromethane. After an additional hour of stirring in the ice/water bath, an aqueous potassium carbonate solution was added (~100 mL of a 1M solution). The organic phase was separated, dried over magnesium sulfate, filtered and concentrated in vacuo to afford the crude title product which was used without further purification. 1H NMR (CDCl3) δ 1.2 (t, 3H), 2.5 (dq, 2H), 7.05 (d, 2H), 7.56 (d, 2H), 7.84 (t, 1H, J=4.4 Hz).

reactant | 4-trifluoromethylaniline | 20.5 mmol, 3.3 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | triethyl amine | 83 mmol, 8.3 g | C(C)N(CC)CC | C6H15N
reactant | propionaldehyde | 25.6 mmol, 1.8 g | C(CC)=O | C3H6O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | Propylidene-(4-trifluoromethyl-phenyl)-amine | C(CC)=NC1=CC=C(C=C1)C(F)(F)F | C10H10F3N
